US04020079
A stirred solution of 22.7 parts of N-[2-(1- adamantylthio)ethyl]alanine in 216 parts of acetic acid is cooled to 15°, then treated with a solution of 6.2 parts of sodium nitrite in 20 parts of water, added dropwise over a 15 minute period. Stirring is continued at low temperature for an additional 15 minutes, then at room temperature for another 15 minutes. The resultant clear yellow solution is added to 1000 parts of ice-water and stirring is continued. The resultant mixture is extracted with methylene chloride. The organic phase is separated, washed with water, dried over anhydrous sodium sulfate and evaporated to dryness to yield, as a gumlike material, N-[2-(1-adamantylthio)ethyl]-N-nitrosoalanine.

reactant | N-[2-(1- adamantylthio)ethyl]alanine | C12(CC3CC(CC(C1)C3)C2)SCCN[C@@H](C)C(=O)O | C15H25NO2S
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | sodium nitrite | N(=O)[O-].[Na+]
solvent | water | O | H2O
product | N-[2-(1-adamantylthio)ethyl]-N-nitrosoalanine | C12(CC3CC(CC(C1)C3)C2)SCCN([C@@H](C)C(=O)O)N=O | C15H24N2O3S
